US08604038B2
Step A: 2-Chloro-4-phenylpyrimidine
To a mixture of 2,4-dichloropyrimidine (1.47 g, 9.8 mmol), benzene boronic acid (1 g, 8.2 mmol), Na2CO3 (2.61 g, 24.6 mmol) in a mixture of DME (15 ml), EtOH (2 ml) and water (3 ml) was added Pd(PPh3)4 (190 mg, 0.16 mmol) and the resulting mixture heated in a microwave at 125° C. for 30 min. The reaction was repeated on same scale. The reaction mixtures were combined and diluted with water and extracted with EtOAc (×2). The EtOAc layers were combined and washed with sat. NaCl, dried over MgSO4, filtered and evaporated. The residue was purified by MPLC (Biotage Horizon: FLASH 40+M) eluent: 100% Hexanes (180 ml), gradient rising from 100% Hexanes to 10% EtOAc in Hexanes (900 ml), then 10% EtOAc in Hexanes (500 ml) to give 1.3 g of the title compound (41%) as a white solid. 1H NMR (CDCl3): 7.54 (m, 3H), 7.76 (s, 1H), 8.08 (m, 2H), 9.04 (s, 1H).

reactant | 2,4-dichloropyrimidine | 9.8 mmol, 1.47 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | benzene boronic acid | 8.2 mmol, 1 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 24.6 mmol, 2.61 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 2 ml | CCO | C2H6O
solvent | DME | 15 ml | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.16 mmol, 190 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 3 ml | O | H2O
product | 2-Chloro-4-phenylpyrimidine | 1.3 g, 41% | ClC1=NC=CC(=N1)C1=CC=CC=C1 | C10H7ClN2
